US04125615
2-[4-(p-Aminobenzyl)-1-piperazinyl]-8-ethyl-5,8-dihydro-5-oxopyrido[2,3-d]pyrimidine-6-carboxylic acid hydrochloride:-
2-[4-(p-Aminobenzyl)-1-piperazinyl]-8-ethyl-5,8-dihydro-5-oxopyrido[2,3-d]pyrimidine-6-carboxylic acid (3.0 g) was dissolved in 300 ml of ethanol by heating at 80° C. To the hot solution was added 0.5 ml of concentrated hydrochloric acid and the mixture was allowed to stand in a refrigerator. The resulting precipitate was collected by filtration and recrystallized twice from ethanol containing a small amount of concentrated hydrochloric acid to give the product (2.2 g), m.p. above 300° C.

reactant | 2-[4-(p-Aminobenzyl)-1-piperazinyl]-8-ethyl-5,8-dihydro-5-oxopyrido[2,3-d]pyrimidine-6-carboxylic acid | 3.0 g | NC1=CC=C(CN2CCN(CC2)C=2N=CC3=C(N2)N(C=C(C3=O)C(=O)O)CC)C=C1 | C21H24N6O3
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 2-[4-(p-Aminobenzyl)-1-piperazinyl]-8-ethyl-5,8-dihydro-5-oxopyrido[2,3-d]pyrimidine-6-carboxylic acid hydrochloride | 2.2 g | Cl.NC1=CC=C(CN2CCN(CC2)C=2N=CC3=C(N2)N(C=C(C3=O)C(=O)O)CC)C=C1 | InChI=1S/C21H24N6O3.ClH/c1-2-26-13-17(20(29)30)18(28)16-11-23-21(24-19(16)26)27-9-7-25(8-10-27)12-14-3-5-15(22)6-4-14;/h3-6,11,13H,2,7-10,12,22H2,1H3,(H,29,30);1H
